US08975400B2
D5: 5-(Hydroxymethyl)-2-{[3-(trifluoromethyl)phenyl]oxy}benzonitrile
NaBH4 (0.39 g, 10.30 mmol) was added to a solution of 5-formyl-2-{[3-(trifluoromethyl)phenyl]oxy}benzonitrile (5 g, 17.17 mmol) in methanol (30 mL) at 0° C., and then the mixture was stirred at rt for 30 min. The reaction mixture was quenched by acetone and concentrated. The residue was purified via ISCO (DCM:MeOH=20:1) to afford the title compound as a clear oil (5.5 g, 95% yield).

reactant | NaBH4 | 10.30 mmol, 0.39 g | [BH4-].[Na+]
reactant | 5-formyl-2-{[3-(trifluoromethyl)phenyl]oxy}benzonitrile | 17.17 mmol, 5 g | C(=O)C=1C=CC(=C(C#N)C1)OC1=CC(=CC=C1)C(F)(F)F | C15H8F3NO2
solvent | methanol | 30 mL | CO | CH4O
product | 5-(Hydroxymethyl)-2-{[3-(trifluoromethyl)phenyl]oxy}benzonitrile | 5.5 g, 95% yield | OCC=1C=CC(=C(C#N)C1)OC1=CC(=CC=C1)C(F)(F)F | C15H10F3NO2
